US04808591
8-(2-PYRIMIDYLTHIO)QUINOLINE
To a solution of 210 mg. (1.06 m mole) of quinoline-8-thiolhydrochloride in 5 ml. of dry methanol was added 128 mg. (1.05 m mole) of 2-chloropyrimidine in 2 ml. of the same solvent followed by 148 ul (1 m mole) of dry triethylamine. The reaction mixture was allowed to stir at room temperature overnight followed by the removal of the methanol in vacuo. The residue was partitioned between a saturated sodium bicarbonate solution and ethyl acetate. The organic phase was separated, dried and concentrated. The residue was redissolved in chloroform and concentrated without heat. The residue was triturated with ethyl acetate, filtered and dried, 170 mg., m.p. 165°-168° C.

reactant | quinoline-8-thiolhydrochloride | Cl.N1=CC=CC2=CC=CC(=C12)S
reactant | methanol | CO | CH4O
reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
solvent | triethylamine | 148 ul | C(C)N(CC)CC | C6H15N
product | 8-(2-PYRIMIDYLTHIO)QUINOLINE | N1=C(N=CC=C1)SC=1C=CC=C2C=CC=NC12 | C13H9N3S
